US08647538B2
In an oven-dried flask placed under a nitrogen atmosphere, 4-fluorophenyl-4-hydroxyphenyl methanone (100 g), 2-chloroethanol (75 g), potassium carbonate (134 g) and potassium iodide (11.5 g) were stirred in anhydrous dimethylformamide (400 mL) using a mechanical stirrer. The reaction mixture was heated to reflux for 4 hours. It was cooled to room temperature and then poured into a beaker containing deionized water (1 L) and ice. Concentrated hydrochloric acid was added while stirring vigorously until the pH reached 3. The mixture was transferred to a separatory funnel and then extracted with chloroform (2×600 mL). The organic layers were combined and washed with a saturated aqueous solution of sodium bicarbonate (750 mL), dried over sodium sulfate and concentrated by rotary evaporation to yield a solid. The solid was slurried in a minimal amount of a solution of 10% ethyl acetate/90% hexanes and collected by vacuum filtration. 120 grams of 4-fluorophenyl-4-(2-hydroxyethoxy)phenyl methanone was isolated.

reactant | 4-fluorophenyl-4-hydroxyphenyl methanone | 100 g | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H9FO2
reactant | 2-chloroethanol | 75 g | ClCCO | C2H5ClO
reactant | potassium carbonate | 134 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 11.5 g | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 L | O | H2O
product | 4-fluorophenyl-4-(2-hydroxyethoxy)phenyl methanone | 120 grams | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCO | C15H13FO3
